US04888439
N-ethyl-N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienyl)proionamide
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid; ethylamine (70% aqueous ethylamine solution) and propionyl chloride.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | ethylamine | C(C)N | C2H7N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-ethyl-N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienyl)proionamide | C(C)N(C(CC)=O)CC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C23H39NO2
